US07777047B2
N-methyl-N-(2-{5-[2-(4H-1,2,4-triazol-3-ylamino)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide
To a solution of N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide (200 mg) and 4H-1,2,4-triazol-3-amine (80 mg) in acetic acid (3 mL) was added sodium triacetoxyborohydride (200 mg) at room temperature, and the mixture was stirred for 10 min. The reaction mixture was neutralized with saturated aqueous sodium hydrogencarbonate solution, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The obtained residue was subjected to silica gel column chromatography to give the title compound (120 mg, yield 50%) as white crystals from a fraction eluted with ethyl acetate. melting point 195° C.

reactant | N-methyl-N-{2-[5-(2-oxoethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 200 mg | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CC=O | C18H17N3O3S3
reactant | 4H-1,2,4-triazol-3-amine | 80 mg | N=1N=C(NC1)N | C2H4N4
reactant | sodium triacetoxyborohydride | 200 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | N-methyl-N-(2-{5-[2-(4H-1,2,4-triazol-3-ylamino)ethyl]-4,5-dihydro-1,3-thiazol-2-yl}-1H-indol-7-yl)thiophene-2-sulfonamide | 120 mg, yield 50% | CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CCNC1=NN=CN1 | C20H21N7O2S3
